US03978045
A 1.0 gram amount of NG -nitro-N2 -dansyl-N-(n-butyl)-L-argininamide, which was prepared in the same manner as described in Example 26, was dissolved in a mixture of 1 ml of anisole and 2 ml of hydrogen fluoride, and the mixture was stirred for 30 minutes in an ice-bath. The hydrogen fluoride was evaporated in vacuo to afford an oily product, which was washed well with 100 ml of dry ethyl ether to remove the hydrogen fluoride. The thus obtained powdery product was neutralized with a solution of 3 ml of triethylamine in a small amount of water. Then N2 -dansyl-N-(n-butyl)-L-argininamide monohydrate was obtained in 73% yield; mp. 145°-148°C.

reactant | nitro-N2 -dansyl-N-(n-butyl)-L-argininamide | [N+](=O)([O-])N([C@@H](CCCNC(N)=N)C(=O)NCCCC)S(=O)(=O)C1=CC=CC=2C(N(C)C)=CC=CC12 | C22H33N7O5S
solvent | anisole | 1 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | hydrogen fluoride | 2 ml | F | FH
product | N2 dansyl-N-(n-butyl)-L-argininamide monohydrate | 73% yield | N#N.O.S(=O)(=O)(C1=CC=CC=2C(N(C)C)=CC=CC12)N[C@@H](CCCNC(N)=N)C(=O)NCCCC | InChI=1S/C22H34N6O3S.N2.H2O/c1-4-5-14-25-21(29)18(11-8-15-26-22(23)24)27-32(30,31)20-13-7-9-16-17(20)10-6-12-19(16)28(2)3;1-2;/h6-7,9-10,12-13,18,27H,4-5,8,11,14-15H2,1-3H3,(H,25,29)(H4,23,24,26);;1H2/t18-;;/m0../s1
